US08293911B2
Step C: N-(4-Bromo-2,6-dimethoxy-phenyl)-3,3-dimethyl-butanamide
To a solution of the crude 5-bromo-1,3-dimethoxy-2-amino-benzene from above and triethylamine (1.5 g, 15 mmol) in anhydrous dichloromethane (50 mL) was added dropwise tert-butyl acetyl chloride (1.6 g, 12 mmol) with stirring at room temperature. The reaction mixture was stirred for 3 hours at room temperature. Then the reaction mixture was diluted with dichloromethane, washed with water, dried over anhydrous sodium sulfate, and evaporated to dryness under reduced pressure. The residue was purified by silica gel column (ISCO, hexane/EtOAc, 0-40%, 40 min) to give a white solid (3.0 g, 91%). 1H-NMR (DMSO-d6, 400 MHz): δ 8.69 (brs, 1H, exchangeable with D2O), 6.87 (s, 2H), 3.73 (s, 6H), 2.11 (s, 2H), 1.02 (s, 9H).

reactant | 5-bromo-1,3-dimethoxy-2-amino-benzene | BrC=1C=C(C(=C(C1)OC)N)OC | C8H10BrNO2
reactant | triethylamine | 15 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyl acetyl chloride | 12 mmol, 1.6 g | C(C)(C)(C)CC(=O)Cl | C6H11ClO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-(4-Bromo-2,6-dimethoxy-phenyl)-3,3-dimethyl-butanamide | 3.0 g, 91% | BrC1=CC(=C(C(=C1)OC)NC(CC(C)(C)C)=O)OC | C14H20BrNO3
